US05216026
Preparation of N-(4-chlorophenyl)-N'-1-hexanesulfonylurea
The general method of procedure A was followed with hexanesulfonamide (10 g), acetone (200 ml), 1N sodium hydroxide (60 ml), and 4-chlorophenyl isocyanate (8.8 g) in acetone (50 ml). After three hours of stirring, 1N HCl (60 ml) was added followed by removal of acetone and collection of solid from the water. The solid was washed with water and dried at 65° C. under vacuum to provide 16 g of product.

reactant | hexanesulfonamide | 10 g | C(CCCCC)S(=O)(=O)N | C6H15NO2S
reactant | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 8.8 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | HCl | 1N, 60 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-(4-chlorophenyl)-N'-1-hexanesulfonylurea | 16 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)CCCCCC | C13H19ClN2O3S
